US04699926
To a stirring suspension of finely ground glycine (6.01 g, 0.08 mole) in tetrahydrofuran (50 ml) was added, dropwise, the solution of [2,3-dichloro-4-(2-methylenebutyryl)phenoxy]acetyl chloride over a period of 15 minutes. The mixture was stirred at ambient temperature for 2.25 hours and then at reflux for one hour. The mixture was cooled, filtered and washed with tetrahydrofuran. The solid was suspended in water (60 ml), filtered, washed with water and dried to give 7.15 g of N-{[2,3-dichloro-4(2-methylenebutyryl)phenoxy]acetyl}glycine. Upon recrystallization from isopropyl alcohol, the product melted at 201.5°-202.5° C.

reactant | glycine | 0.08 mole, 6.01 g | NCC(=O)O | C2H5NO2
reactant | [2,3-dichloro-4-(2-methylenebutyryl)phenoxy]acetyl chloride | ClC1=C(OCC(=O)Cl)C=CC(=C1Cl)C(C(CC)=C)=O | C13H11Cl3O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-{[2,3-dichloro-4(2-methylenebutyryl)phenoxy]acetyl}glycine | 7.15 g | ClC1=C(OCC(=O)NCC(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C15H15Cl2NO5
